US07262200B2
Step A: (4-Chloro-6-phenyl-[1,3,5]triazin-2-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine
A solution of 5-cyclopropyl-2H-pyrazol-3-ylamine (172 mg, 1.4 mmol) in 5 ml of THF was added dropwise to a solution of 2,4-dichloro-6-phenyl-[1,3,5]triazine (452 mg, 2 mmol) (ref: WO 0125220, p.190) and diisopropylethylamine (0.35 ml, 2 mmol) in 15 ml of THF at room temperature then stirred for 18 hours. The reaction was filtered and the filtrate evaporated in vacuo and the residue purified by flash chromatography (SiO2) eluting with 8:2 dichloromethane: ethyl acetate to afford 233 mg of the desired product. HPLC: Rt 6.803 mins. MS: m/z 313.0 (M+H)

reactant | 5-cyclopropyl-2H-pyrazol-3-ylamine | 1.4 mmol, 172 mg | C1(CC1)C=1C=C(NN1)N | C6H9N3
reactant | 2,4-dichloro-6-phenyl-[1,3,5]triazine | 2 mmol, 452 mg | ClC1=NC(=NC(=N1)Cl)C1=CC=CC=C1 | C9H5Cl2N3
reactant | diisopropylethylamine | 2 mmol, 0.35 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (4-Chloro-6-phenyl-[1,3,5]triazin-2-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 233 mg | ClC1=NC(=NC(=N1)C1=CC=CC=C1)NC=1NN=C(C1)C1CC1 | C15H13ClN6
